US08445501B2
1-Bromo-2-cyclopropylmethoxy-5-fluoro-benzene
Starting from commercially available 2-bromo-4-fluoro-phenol and bromomethyl-cyclopropane the title compound is obtained as colorless oil.

reactant | 2-bromo-4-fluoro-phenol | BrC1=C(C=CC(=C1)F)O | C6H4BrFO
reactant | bromomethyl-cyclopropane | BrCC1CC1 | C4H7Br
product | 1-Bromo-2-cyclopropylmethoxy-5-fluoro-benzene | BrC1=C(C=CC(=C1)F)OCC1CC1 | C10H10BrFO
